US07507762B2
2-Acrylamido-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene
The title compound was prepared from 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene and acryloyl chloride as a yellow solid by a procedure similar to that described for Example 80. 1H NMR (CDCl3): 6.96-6.23 (m, 7H), 5.92 (d, J=10.2, 1H), 4.73 (s, 1H), 3.87 (s, 3H), 3.85 (s, 3H), 2.96 (s, 6H).

reactant | 2-amino-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C20H20BrN3O3
reactant | acryloyl chloride | C(C=C)(=O)Cl | C3H3ClO
product | 2-Acrylamido-3-cyano-7-dimethylamino-4-(3-bromo-4,5-dimethoxyphenyl)-4H-chromene | C(C=C)(=O)NC=1OC2=CC(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br)N(C)C | C23H22BrN3O4
